*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/1.00e-01[uF]/25[V]
* Murata P/N :GRM155B31E104MA87
* Property : C = 1.00e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B31E104MA87 Port1 Port2
C01 Port1 N01 9.67e-08
R01 Port1 N01 5.00e+09
L02 N01 N02 1.77e-10
R03 N02 N03 1.52e-02
C04 N03 N04 1.00e-05
R04 N03 N04 3.96e+02
C05 N04 N05 1.53e-05
R05 N04 N05 2.87e+01
C06 N05 N06 1.25e-05
R06 N05 N06 4.99e+00
C07 N06 N07 1.31e-05
R07 N06 N07 6.01e-01
C08 N07 N08 1.40e-05
R08 N07 N08 1.00e-01
C09 N08 N09 8.58e-06
R09 N08 N09 2.93e-02
C10 N09 N10 7.84e-06
R10 N09 N10 6.68e-03
L11 N10 N11 1.97e-11
R11 N10 N11 5.46e-01
L12 N11 N12 2.17e-11
R12 N11 N12 6.75e-02
L13 N12 N13 1.07e-10
R13 N12 N13 5.45e-02
C14 N13 N14 5.49e-07
L14 N13 N14 1.57e-11
R14 N13 N14 9.61e-03
C15 N14 N15 3.93e-07
L15 N14 N15 1.17e-11
R15 N14 N15 1.24e-02
C16 N15 Port2 6.65e-12
L16 N15 Port2 4.30e-11
R16 N15 Port2 1.35e+01
.ENDS GRM155B31E104MA87
